US06194406B1
2-Methylsulfinyl-5-(1H-tetrazol-1-yl)benzoic Acid
Combine methyl 2-methylsulfinyl-5-(1H-tetrazol-1-yl)benzoate (0.46 g, 1.73 mmol) and a 1 M aqueous solution of sodium hydroxide (30 mL, 30 mmol) in methanol (10 mL) and tetrahydrofuran (10 mL). After 1 hour, adjust the pH to about 2 using a 1 M aqueous hydrochloric acid solution and extract with ethyl acetate and then dichloromethane. Dry the combined organic layers over MgSO4, filter, and concentrate in vacuo to give the title compound: Rf=0.15 (silica gel, 10% methanol/85% dichloromethane/5% acetic acid).

reactant | methyl 2-methylsulfinyl-5-(1H-tetrazol-1-yl)benzoate | 1.73 mmol, 0.46 g | CS(=O)C1=C(C(=O)OC)C=C(C=C1)N1N=NN=C1 | C10H10N4O3S
reactant | sodium hydroxide | 30 mmol, 30 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-Methylsulfinyl-5-(1H-tetrazol-1-yl)benzoic Acid | CS(=O)C1=C(C(=O)O)C=C(C=C1)N1N=NN=C1 | C9H8N4O3S
